US07262318B2
5-[4-(4-tert-Butyl-phenoxy)-phenylsulfamoyl]-2-methyl-benzoic acid
A solution of 4-(4-tert-butyl-phenoxy)-phenylamine (0.1 g, 0.41 mmol). 5-chlorosulfonyl-2-methylbenzoic acid (0.097 g, 0.41 mmol) and pyridine (0.1 ml, 1.24 mmol) in 2 ml anhydrous tetrahydrofuran was heated at 60° C. for 2 hr. The reaction mixture was cooled to room temperature and diluted with 30 ml ethyl acetate. The ethyl acetate solution was washed sequentially with 25 ml 1N aqueous hydrochloric acid solution and 25 ml brine, dried (anhydrous sodium sulfate) and concentrated to dryness under reduced pressure. The crude product was purified by preparative thick layer chromatography (silica gel), eluting with 9:1 chloroform/methanol to yield the title compound.

reactant | 4-(4-tert-butyl-phenoxy)-phenylamine | 0.41 mmol, 0.1 g | C(C)(C)(C)C1=CC=C(OC2=CC=C(C=C2)N)C=C1 | C16H19NO
reactant | 5-chlorosulfonyl-2-methylbenzoic acid | 0.41 mmol, 0.097 g | ClS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)C | C8H7ClO4S
reactant | pyridine | 1.24 mmol, 0.1 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 5-[4-(4-tert-Butyl-phenoxy)-phenylsulfamoyl]-2-methyl-benzoic acid | 82% yield | C(C)(C)(C)C1=CC=C(OC2=CC=C(C=C2)NS(=O)(=O)C=2C=CC(=C(C(=O)O)C2)C)C=C1 | C24H25NO5S
